US09302989B2
(E)-N-benzyl-N-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)prop-2-en-1-amine
In a 4 mL vial were mixed (E)-2-(3-chloroprop-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.195 ml, 0.988 mmol) and potassium carbonate (273 mg, 1.975 mmol) in anhydrous acetonitrile (2 ml). Benzylmethylamine (0.166 ml, 1.284 mmol) was added to this mixture, and the reaction was stirred vigorously overnight at room temperature. The reaction was diluted with ethyl acetate and washed with water and brine. The organic layer was dried with sodium sulfate, decanted, and concentrated to provide the title compound.

reactant | (E)-2-(3-chloroprop-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.988 mmol, 0.195 ml | ClC/C=C/B1OC(C(O1)(C)C)(C)C | C9H16BClO2
reactant | potassium carbonate | 1.975 mmol, 273 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Benzylmethylamine | 1.284 mmol, 0.166 ml | C(C1=CC=CC=C1)CN | C8H11N
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-benzyl-N-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)prop-2-en-1-amine | C(C1=CC=CC=C1)N(C\C=C\B1OC(C(O1)(C)C)(C)C)C | C17H26BNO2
